US06747050B1
Synthesis of (3S)-3-{3-[2-Methyl-(1S)-1-(naphthalene-2-carbonyl-amino)-propyl]-phenoxymethyl-4,5-dihydro-isoxazole-5-carbonyl-amino}-4-keto-5-phenoxy-pentanoic Acid t-Butyl Ester
The title compound was prepared with conventional EDC coupling of 3-[2-methyl-(1S)-1-(naphthalene-2-carbonyl-amino)-propyl]-5-phenoxymethyl-4,5-dihydro-isoxazole-5-carboxylic acid (1.00 g, 2.24 mmol) and (3S)-3-amino-4-hydroxy-5-phenoxy-pentanoic acid t-butyl ester (630 mg, 1.0 eq), EDC (558 mg, 1.3 eq), HOBt (394 mg, 1.3 eq) and triethylamine (0.94 mL, 3.0 eq) in DMF (5 mL). Usual workup followed by flash chromatography gave 1.44 g of coupled product. The coupled product and Dess-Martin reagent (2.15 g, 2.5 mol eq) in dry CH2Cl2 (25 mL) under N2 at room temperature was stirred for 1 h, then quenched with isopropyl alcohol (3 mL). Usual extractive workup followed by flash chromatography (36% ethyl acetate-hexane) gave 1.27 g of the tide compound as diastereomeric mixture. Preparative HPLC (36% ethyl acetate-hexanes, 10 mL/min, 278 nm UV detection) afforded less polar (352 mg) and more polar (536 mg) diastereomers.

reactant | 3-[2-methyl-(1S)-1-(naphthalene-2-carbonyl-amino)-propyl]-5-phenoxymethyl-4,5-dihydro-isoxazole-5-carboxylic acid | 2.24 mmol, 1.00 g | CC([C@H](NC(=O)C1=CC2=CC=CC=C2C=C1)C1=NOC(C1)(C(=O)O)COC1=CC=CC=C1)C | C26H26N2O5
reactant | (3S)-3-amino-4-hydroxy-5-phenoxy-pentanoic acid t-butyl ester | 630 mg, 1.0 eq | C(C)(C)(C)OC(C[C@@H](C(COC1=CC=CC=C1)O)N)=O | C15H23NO4
reactant | HOBt | 394 mg, 1.3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.94 mL, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EDC
solvent | EDC | 558 mg, 1.3 eq
product | (3S)-3-{3-[2-Methyl-(1S)-1-(naphthalene-2-carbonyl-amino)-propyl]-phenoxymethyl-4,5-dihydro-isoxazole-5-carbonyl-amino}-4-keto-5-phenoxy-pentanoic Acid t-Butyl Ester | C(C)(C)(C)OC(C[C@@H](C(COC1=CC=CC=C1)=O)N(C(=O)C1CC(=NO1)[C@H](C(C)C)NC(=O)C1=CC2=CC=CC=C2C=C1)COC1=CC=CC=C1)=O | C41H45N3O8
